US07749994B2
To a cold solution (−30° C.) of tetrahydrothiopyran-4-one (5.0 g, 43.0 mmol) in anhydrous ether, were simultaneously added a solution of boron trifluoride etherate (5.4 ml, 43.0 mmol) in diethyl ether (4.6 ml) and a solution of ethyl diazodicarboxylate (5.8 ml, 55.9 mmol) in diethyl ether (4.6 ml) over 1.5 hours via a syringe pump. Upon completion of additions, the reaction mixture was allowed to stir for an additional hour at −30° C. and then warmed to room temperature. The reaction mixture was washed with 30% potassium carbonate and the organic phase was dried over Na2SO4 and concentrated in vacuo to give ethyl 5-oxothiepane-4-carboxylate as a white solid.

reactant | tetrahydrothiopyran-4-one | 43.0 mmol, 5.0 g | S1CCC(CC1)=O | C5H8OS
reactant | boron trifluoride etherate | 43.0 mmol, 5.4 ml | B(F)(F)F.CCOCC
reactant | ethyl diazodicarboxylate | 55.9 mmol, 5.8 ml | [N+](=[N-])(C(=O)[O-])C(=O)OCC
solvent | ether | CCOCC | C4H10O
solvent | diethyl ether | 4.6 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 4.6 ml | C(C)OCC | C4H10O
product | ethyl 5-oxothiepane-4-carboxylate | O=C1C(CCSCC1)C(=O)OCC | C9H14O3S
